* IRIS pre-layout transient simulation deck
.options savecurrents reltol=1e-4 vabstol=1e-8 iabstol=1e-12 method=gear
.temp 27

.param pin_dbm = 0
.param freq_hz = 6e+07
.param load_res = 30000
.param lmatch = 6.8e-07
.param cmatch = 1.84e-11
.param rdamp = 1
.param match_gain = 9
.param pin_w = 1e-3*pow(10,pin_dbm/10)
.param vhalf_peak = sqrt(100*pin_w)*match_gain

.include /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

VSP srcp 0 SIN(0 {vhalf_peak} {freq_hz})
VSN srcn 0 SIN(0 {-vhalf_peak} {freq_hz})
RSP srcp rfp 25
RSN srcn rfn 25

XHARV rfp rfn vout vrect 0 iris_harvester
RLOAD vout 0 {load_res}

.tran 0.2n 80u 0 0.2n
.meas tran vrect_avg AVG v(vrect) from=60u to=80u
.meas tran vout_avg AVG v(vout) from=60u to=80u
.meas tran vout_max MAX v(vout) from=60u to=80u

.control
run
wrdata /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/iris_rf/results/pce_sweep/f060mhz_R30000_wave.csv time v(vout) v(vrect) v(rfp) v(rfn) v(xharv.gatep) v(xharv.gaten)
write /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/iris_rf/results/pce_sweep/f060mhz_R30000.raw
quit
.endc

.subckt iris_harvester rfp rfn vout vrect vss
XBIAS rfp rfn gatep gaten vrect vss iris_startup_bias
XRECT rfp rfn gatep gaten vrect vss iris_rectifier
XPUMP rfp rfn vrect vout vss iris_charge_pump
.ends iris_harvester

.subckt iris_startup_bias rfp rfn gatep gaten vrect vss
RGP gatep rfp 1m
RGN gaten rfn 1m
CINJP rfn gatep 0.6p
CINJN rfp gaten 0.6p
MPBIASP gatep vrect vrect vrect pmos_3p3 w=4u l=1u nf=1 m=1
MPBIASN gaten vrect vrect vrect pmos_3p3 w=4u l=1u nf=1 m=1
MNBIASP gatep vss vss vss nmos_3p3 w=2u l=1u nf=1 m=1
MNBIASN gaten vss vss vss nmos_3p3 w=2u l=1u nf=1 m=1
.ends iris_startup_bias

.subckt iris_rectifier rfp rfn gatep gaten vrect vss
MPP1 vrect gaten rfp vrect pmos_3p3 w=40u l=0.28u nf=4 m=1
MPP2 vrect gatep rfn vrect pmos_3p3 w=40u l=0.28u nf=4 m=1
MNN1 rfp gaten vss vss nmos_3p3 w=20u l=0.28u nf=4 m=1
MNN2 rfn gatep vss vss nmos_3p3 w=20u l=0.28u nf=4 m=1
.ends iris_rectifier

.subckt iris_charge_pump rfp rfn vrect vout vss
MCP1 vrect vrect n1 n1 nmos_3p3 w=16u l=0.28u nf=4 m=1
MCP2 n1 n1 n2 n2 nmos_3p3 w=16u l=0.28u nf=4 m=1
MCP3 n2 n2 vout vout nmos_3p3 w=16u l=0.28u nf=4 m=1
CCP1 rfp n1 1.2p
CCP2 rfn n2 1.2p
CCP3 rfp vout 1.2p
CSTORE vout vss 20p
.ends iris_charge_pump

.end
